US08022062B2
Use a method similar to the General Procedure 5-2 to couple 7-chloro-6-trifluoromethanesulfonyloxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (370 mg, 0.9 mmol) with 2-aminomethyl-5-(2,2,2-trifluoroethoxy)-pyridine (180 mg, 0.9 mmol) in toluene (8 mL). Purify by chromatography on silica gel eluting with hexane/EtOAc (10:1, 5:1 and 3:1) followed by SCX chromatography [pre-wash column with methanol followed by DCM, load material dissolved in DCM, then elute with DCM/2M ammonia in methanol (1:1) and concentrate in vacuo] to obtain 7-chloro-6-{[5-(2,2,2-trifluoro-ethoxy)-pyridin-2-ylmethyl]-amino}-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine.

reactant | 7-chloro-6-trifluoromethanesulfonyloxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.9 mmol, 370 mg | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10ClF6NO4S
reactant | 2-aminomethyl-5-(2,2,2-trifluoroethoxy)-pyridine | 0.9 mmol, 180 mg | NCC1=NC=C(C=C1)OCC(F)(F)F | C8H9F3N2O
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
product | 7-chloro-6-{[5-(2,2,2-trifluoro-ethoxy)-pyridin-2-ylmethyl]-amino}-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)NCC1=NC=C(C=C1)OCC(F)(F)F | C20H18ClF6N3O2
